US09169261B2
To a solution of (S)-tert-butyl (1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)carbamate (0.74 g, 2.4 mmol, 1 eq) in 3 mL of dioxane was added a solution of 4.0 M HCl in dioxane (3 mL, 20 mmol, 4 eq). After heating for 3 h at 60° C., the mixture was concentrated to afford (S)-1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-amine (0.670 g, 2.4 mmol, 100%).

reactant | (S)-tert-butyl (1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-yl)carbamate | 2.4 mmol, 0.74 g, 1 eq | N1=CC=C2N1C=CN=C2N2C[C@H](CC2)NC(OC(C)(C)C)=O | C15H21N5O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mmol, 3 mL, 4 eq | O1CCOCC1 | C4H8O2
product | (S)-1-(pyrazolo[1,5-a]pyrazin-4-yl)pyrrolidin-3-amine | 2.4 mmol, 0.670 g, 100% | N1=CC=C2N1C=CN=C2N2C[C@H](CC2)N | C10H13N5
